US06511978B1
13-1) Preparation of 1-(3,4-methylenedioxybenzyl)-4-nitro-1H-imidazole
3.39 g(30 mmol) of 4-nitroimidazole, 6.45 g(30 mmol) of piperonyl bromide and 8.28 g(60 mmol) of potassium carbonate were added to 100 ml of dimethylformamide and the resulting mixture was reacted for 6 hours. The reaction solution was concentrated by removing the solvent. The residue was dissolved in 100 ml of ethylacetate and the combined organic layer was washed twice with 100 ml of water. The organic layer was separated, concentrated and then subjected to column chromatography (eluent: hexane/ethylacetate=2/1, v/v) to give 6.17 g(1.52 mmol, Yield 83%) of the title compound.

reactant | 4-nitroimidazole | 30 mmol, 3.39 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | piperonyl bromide | 30 mmol, 6.45 g | C(C1=CC=2OCOC2C=C1)Br | C8H7BrO2
reactant | potassium carbonate | 60 mmol, 8.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | hexane ethylacetate | CCCCCC.C(C)OC(C)=O
product | 1-(3,4-methylenedioxybenzyl)-4-nitro-1H-imidazole | 1.52 mmol, 6.17 g, Yield 83% | C1OC=2C=C(CN3C=NC(=C3)[N+](=O)[O-])C=CC2O1 | C11H9N3O4
